* C:\Users\Sai Kartik\OneDrive - BIRLA INSTITUTE OF TECHNOLOGY and SCIENCE\Documents\MuE Assignments\Assignment 1\resources\question1.asc
Vgs N002 0 0.8696061
V2 N001 0 5
M1 vout N002 0 0 NMOS
R1 N001 vout 15k
C1 0 vout 1n
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Sai Kartik\OneDrive - BIRLA INSTITUTE OF TECHNOLOGY and SCIENCE\Documents\LTspiceXVII\lib\cmp\standard.mos
.lib "C:\Users\Sai Kartik\OneDrive - BIRLA INSTITUTE OF TECHNOLOGY and SCIENCE\Documents\MuE Assignments\Assignment 1\resources\SPICE Library Files.lib"
.op
.backanno
.end
